US04800203
2-(2,4-Dichlorobenzoyl)-1-phthalimidopyrrole
To a suspension of phthalimidopyrrole (748.6 g) and 2,4-dichlorobenzoyl chloride (1109.1 g) in 3.5 L of dichloroethane was added 707.3 g of K-10 Montmorillonite clay. The resulting mixture was stirred at reflux for 48 hrs, then filtered and concentrated to a semisolid. The semisolid was triturated with a large quantity of ether and collected to yield 112.5 g of powder. The ether wash was concentrated to give 162.0 of a residue. This was purified by high performance liquid chromatography (HPLC hereinafter, silica, dichloromethane) and recrystallized from absolute ethanol to yield 37.26 g of crystals, mp 152°-153° C.

reactant | phthalimidopyrrole | 748.6 g | C1(C=2C(C(N1C=1NC=CC1)=O)=CC=CC2)=O | C12H8N2O2
reactant | 2,4-dichlorobenzoyl chloride | 1109.1 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dichloroethane | 3.5 L | ClC(C)Cl | C2H4Cl2
product | 2-(2,4-Dichlorobenzoyl)-1-phthalimidopyrrole | 112.5 g | ClC1=C(C(=O)C=2N(C=CC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC(=C1)Cl | C19H10Cl2N2O3
